US08791236B2
Preparation of (S)-2-(15-benzvloxycarbonyl-pentadecanoylamino)pentanedioic acid 5-benzyl ester 1-(2,5-dioxo-pyrrolidin-1-yl) ester
1,16-hexadecanedioic acid mono benzyl ester (20.0 g, 53.1 mmol) was dissolved in acetone at 35-40° C. N-Hydroxysuccinimide (6.42 g, 55.8 mmol) was added. To the resulting solution dicyclohexylcarbodiimide (DCC) (12.1 g, 58.4 mmol) was added. The reaction mixture was stirred for 3-4 hours at 35° C. To the resulting suspension triethylamine (7.40 ml, 53.1 mmol) and L-glutamic acid α-benzyl ester (12.6 g/53.1 mmol) were added. The reaction mixture was stirred for 8-16 hours at 35-40° C. The reaction mixture was cooled to 20-25° C. Methanesulfonic acid (3.45 ml, 53.1 mmol) and DCC (12.1 g, 53.1 mmol) were added. The reaction mixture was stirred for 8-16 hours at 20-25° C. The reaction mixture was filtered, and the filtrate evacuated to dryness. The residue was partitioned between water (100 ml) and toluene (200 ml). The toluene phase was dried by distilling off water. Silica gel (20 g) was added to the residue. The suspension was stirred for 30 minutes at 20-25° C., subsequently filtered. The volume of the filtrate was reduced to app. 100-120 ml by evaporation under reduced pressure. N-heptane (150 ml) was added over a period of 15-30 minutes. The resulting suspension was stirred for 2 hours. The product was isolated by filtration, and dried to constant weight under reduced pressure at 20-25° C. Yield 21 g (58%) of white material.

reactant | 1,16-hexadecanedioic acid mono benzyl ester | 53.1 mmol, 20.0 g | C(C1=CC=CC=C1)OC(CCCCCCCCCCCCCCC(=O)O)=O | C23H36O4
reactant | N-Hydroxysuccinimide | 55.8 mmol, 6.42 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 58.4 mmol, 12.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 53.1 mmol, 7.40 ml | C(C)N(CC)CC | C6H15N
reactant | L-glutamic acid α-benzyl ester | 53.1 mmol, 12.6 g | C1=CC=C(C=C1)COC(=O)[C@H](CCC(=O)O)N | C12H15NO4
reactant | Methanesulfonic acid | 53.1 mmol, 3.45 ml | CS(=O)(=O)O | CH4O3S
reactant | DCC | 53.1 mmol, 12.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetone | CC(=O)C | C3H6O
product | (S)-2-(15-benzvloxycarbonyl-pentadecanoylamino)pentanedioic acid 5-benzyl ester 1-(2,5-dioxo-pyrrolidin-1-yl) ester | O=C1N(C(CC1)=O)OC([C@H](CCC(=O)OCC1=CC=CC=C1)NC(CCCCCCCCCCCCCCC(=O)OCC1=CC=CC=C1)=O)=O | C39H52N2O9
